US08420690B2
c) 1,1-dimethylethyl [2-({[2-(3-furanyl)-5-(1-methyl-1H-pyrazol-5-yl)-3-thienyl]carbonyl}amino)-3-phenylpropyl]carbamate
1,1-dimethylethyl [2-({[5-bromo-2-(3-furanyl)-3-thienyl]carbonyl}amino)-3-phenylpropyl]carbamate (140 mg, 0.277 mmol), 5-(5,5-dimethyl-1,3,2-dioxaborinan-2-yl)-1-methyl-1H-pyrazole (54 mg, 0.277 mmol), Pd(PPh3)4 (16 mg, 13.8 μmol) and K2CO3 (153 mg, 1.11 mmol) in dioxane (2.3 mL) and H2O (462 uL) were combined in a sealed tube. After 4 h at 80° C., additional 5-(5,5-dimethyl-1,3,2-dioxaborinan-2-yl)-1-methyl-1H-pyrazole (54 mg, 0.277 mmol) and Pd(PPh3)4 (16 mg, 13.8 μmol) were added. After an additional 12 h, the reaction contents were partitioned between H2O/DCM. The aqueous phase was washed several times with DCM and the combined organic fractions were dried over Na2SO4, concentrated and used directly: LCMS (ES) m/z=507 (M+H)+.

reactant | 1,1-dimethylethyl [2-({[5-bromo-2-(3-furanyl)-3-thienyl]carbonyl}amino)-3-phenylpropyl]carbamate | 0.277 mmol, 140 mg | BrC1=CC(=C(S1)C1=COC=C1)C(=O)NC(CNC(OC(C)(C)C)=O)CC1=CC=CC=C1 | C23H25BrN2O4S
reactant | 5-(5,5-dimethyl-1,3,2-dioxaborinan-2-yl)-1-methyl-1H-pyrazole | 0.277 mmol, 54 mg | CC1(COB(OC1)C1=CC=NN1C)C | C9H15BN2O2
reactant | K2CO3 | 1.11 mmol, 153 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 5-(5,5-dimethyl-1,3,2-dioxaborinan-2-yl)-1-methyl-1H-pyrazole | 0.277 mmol, 54 mg | CC1(COB(OC1)C1=CC=NN1C)C | C9H15BN2O2
solvent | dioxane | 2.3 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 462 uL | O | H2O
catalyst | Pd(PPh3)4 | 13.8 μmol, 16 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | Pd(PPh3)4 | 13.8 μmol, 16 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1,1-dimethylethyl [2-({[2-(3-furanyl)-5-(1-methyl-1H-pyrazol-5-yl)-3-thienyl]carbonyl}amino)-3-phenylpropyl]carbamate | O1C=C(C=C1)C=1SC(=CC1C(=O)NC(CNC(OC(C)(C)C)=O)CC1=CC=CC=C1)C1=CC=NN1C | C27H30N4O4S
